US04104280
A solution of 350 mg. of 10,11-dihydrodibenzo[b.f]-thiepin-2-acetic acid in five ml. of methanol is treated with 1.1 molar equivalents of 1N methanolic potassium hydroxide. The solvent is evaporated under reduced pressure and the residue taken up in 2 ml. of methanol, followed by precipitation with ether, to yield potassium 10,11-dihydrodibenzo[b.f]thiepin-2-acetate.

reactant | 10,11-dihydrodibenzo[b.f]-thiepin-2-acetic acid | C1=C(C=CC=2SC3=C(CCC21)C=CC=C3)CC(=O)O | C16H14O2S
reactant | potassium hydroxide | 1N | [OH-].[K+]
solvent | methanol | CO | CH4O
product | potassium 10,11-dihydrodibenzo[b.f]thiepin-2-acetate | C1=C(C=CC=2SC3=C(CCC21)C=CC=C3)CC(=O)[O-].[K+] | InChI=1S/C16H14O2S.K/c17-16(18)10-11-5-8-15-13(9-11)7-6-12-3-1-2-4-14(12)19-15;/h1-5,8-9H,6-7,10H2,(H,17,18);/q;+1/p-1
